US08980913B2
Step 2: N-Ethyl-4-formyl-N-(2-hydroxyethyl)benzamide
A solution of methyl 4-(1,3-dioxolan-2-yl)benzoate (0.63 g, 3.0 mmol) in 2-(ethylamino)ethanol (2.93 mL, 30.0 mmol) was heated in a microwave at 130° C. for 2 hours. The reaction mixture was partitioned between DCM and 1M aqueous hydrochloric acid and stirred vigorously for 1 hour. The organic phase was removed, washed with brine and passed through a hydrophobic frit. The solvent was evaporated at reduced pressure to afford the title compound (0.334 g, 50%).

reactant | methyl 4-(1,3-dioxolan-2-yl)benzoate | 3.0 mmol, 0.63 g | O1C(OCC1)C1=CC=C(C(=O)OC)C=C1 | C11H12O4
reactant | 2-(ethylamino)ethanol | 30.0 mmol, 2.93 mL | C(C)NCCO | C4H11NO
product | N-Ethyl-4-formyl-N-(2-hydroxyethyl)benzamide | 0.334 g, 50% | C(C)N(C(C1=CC=C(C=C1)C=O)=O)CCO | C12H15NO3
